US08470841B2
39e Benzyl {(S)-2-[6-(4-benzyloxyphenoxy)pyridin-3-yloxy]-1-methylethyl}carbamate
6-(4-Benzyloxyphenoxy)pyridin-3-ol (250 mg, 0.85 mmol) and benzyl ((S)-2-bromo-1-methylethyl)carbamate (232 mg, 0.85 mmol) were reacted with sodium hydride in DMF in analogy to example 1a. Yield: 118 mg (29%), M+H+: 485.11.

reactant | 6-(4-Benzyloxyphenoxy)pyridin-3-ol | 0.85 mmol, 250 mg | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC=C(C=N2)O)C=C1 | C18H15NO3
reactant | benzyl ((S)-2-bromo-1-methylethyl)carbamate | 0.85 mmol, 232 mg | BrC[C@H](C)NC(OCC1=CC=CC=C1)=O | C11H14BrNO2
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | Benzyl {(S)-2-[6-(4-benzyloxyphenoxy)pyridin-3-yloxy]-1-methylethyl}carbamate | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC=C(C=N2)OC[C@H](C)NC(OCC2=CC=CC=C2)=O)C=C1 | C29H28N2O5
